Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left flank pain.
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ yo woman p/w left flank pain x48 hours prior to 
arrival with dysuria. She denies nausea, vomitting, diarrhea, 
fevers or chills. She has had urinary frequency and dysuria but 
not hematuria.  She notes the pain (currently ___ feels 
similar to kidney stones she has had in the past, however, she 
also notes she has been told in the past that this pain is not 
related ot kidney stones and likely is ? fibromyalgia? 

In the ED: VS: 97.6 95 138/84 16 100% RA. She was given todal 
and levofloxacin 750mg iv. 

ROS: She notes frontal HA off and on for 1 week related to 'the 
weather changing,' bilateral foot pain ___ year, and right elbow 
pain after hitting her elbow. She denies visual changes, sore 
throat, cough, chest pain, sob, abdominal pain, diarrhea, 
constipation, melena, brbpr, rash, myalgias, tingling, numbness, 
weakness. 10 point review of systems otherwise negative. 
 
Past Medical History:
Fibrocystic breast dx
low back pain
rhinitis
nephrolithiasis
 
Social History:
___
Family History:
Mother with hypertension, hyperlipidemia and DM.
 
Physical Exam:
VS: T 97.3 HR 83 BP 124/86 RR 16 Sat 97% RA
Gen: well appering woman in NAD
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: flat
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, non tender, non distended, no heptosplenomegally, 
bowel sounds present
Back: + left CVA tenderness
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, asterixis absent, speech fluent
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
Admission labs:
wbc 12.6 (N: 77), 40.3, 250
bmp: ___

UA: BLOOD-LG NITRITE-NEG PROTEIN-TR GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-MOD URINE  ___ 
WBC->50 BACTERIA-MOD YEAST-NONE EPI-1

CT abdomen and pelvis: wet read: 3mm nonobstructing left renal 
calculus, similar to ___ CT. No perinephric stranding. 
Otherwise unremarkable exam.
 
Brief Hospital Course:
___ yo woman with pylonephritis and nephrolithiasis.

The initial diagnosis was based on atypical back pain (which 
radiates down buttock/leg, quite atypical for pain from the 
kidney) and positive urinalysis. She had no fevers or chills, 
nausea, or vomiting. Her back pain has been noted in previous 
notes and was thought to be musculoskeletal at that time. She 
did have a 3mm non-obstructing stone which was unchanged from 
prior imaging. Her back pain resolved in the morning without 
major interventions. She was discharged on 10 days of Bactrim 
(given most recent UTI in ___ was resistant to ciprofloxacin) 
and instructed to have follow up with urology and her primary 
care doctor. She was continued on hydrochlorothiazide for 
nephrolithiasis. She knows what symptoms should bring her back 
to the hospital, and the final urine culture should be followed 
up as an outpatient. 

 
Medications on Admission:
advil prn pain
hydrochlorothiazide 25mg daily
albuterol inhaler prn
flonase 100mcg prn
 
Discharge Medications:
1. Bactrim DS 160-800 mg Tablet Sig: One (1) Tablet PO twice a 
day for 5 days.
Disp:*10 Tablet(s)* Refills:*0*
2. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.  
3. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
4. Flonase 50 mcg/Actuation Spray, Suspension Nasal

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection, bacterial
Musculoskeletal back pain
 
Discharge Condition:
Stable, afebrile, without back pain
 
Discharge Instructions:
You were admitted with back pain which has resolved. You were 
also found to have a urinary tract infection. A CT scan of your 
abdomen and pelvis shows a non-obstructive kidney stone, 
unchanged from a prior scan in ___, without evidence of any 
kidney infection. You were given IV antibiotics and switched to 
oral antibiotics; you should complete the full course of 
antibiotics. Please follow up with your primary care doctor as 
scheduled. If you develop worsening fever, chills, back pain, or 
other concerning symptoms, please seek medical attention 
immediately.
 
Followup Instructions:
___